US07638521B2
0.345 g (15 mmol) of sodium (prewashed in toluene) is added gradually to 100 cm3 of methanol at a temperature in the region of 20° C. under an argon atmosphere. After dissolution with stirring, 1.43 g (15 mmol) of guanidine hydrochloride are added, and the reaction mixture is stirred at a temperature in the region of 20° C. for 2 hours. The reaction mixture is then concentrated to dryness under reduced pressure (2.7 kPa), and the residue is taken up twice successively with 70 cm3 of dichloromethane (stabilized with amylene) and concentrated to dryness under reduced pressure (2.7 kPa). 50 cm3 of tetrahydrofuran and 50 cm3 of dichloromethane are then added, under an argon atmosphere, at a temperature in the region of 20° C., and 3 mmol of 3-chlorocarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole hydrochloride, are then added with stirring. After stirring for 15 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by flash chromatography on silica gel [eluent: ethyl acetate/methanol (80/20 by volume)]. After the various fractions containing the expected product have been concentrated to dryness under reduced pressure (2.7 kPa), the solid obtained is taken up in methanol, and the mixture is refluxed for 10 minutes. After cooling to a temperature in the region of 20° C. and filtered, the solid is dried at a temperature in the region of 40° C. under reduced pressure (2.7 kPa), giving 0.45 g of 3-guanidinocarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole hydrochloride in the form of an off-white solid melting at 244° C. Mass spectrum (DCI): m/e 334 (MH+) (base peak).

reactant | sodium | 15 mmol, 0.345 g | [Na] | Na
reactant | guanidine hydrochloride | 15 mmol, 1.43 g | Cl.NC(=N)N
reactant | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
reactant | 3-chlorocarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole hydrochloride | 3 mmol | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1C2=C(N=CN1)N(C=C2)C
solvent | methanol | CO | CH4O
solvent | methanol | 100 cm3 | CO | CH4O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 3-guanidinocarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole hydrochloride | 0.45 g | Cl.N(C(=N)N)C(=O)C1=CN(C2=CC=CC=C12)C=1C2=C(N=CN1)N(C=C2)C | InChI=1S/C17H15N7O.ClH/c1-23-7-6-11-14(23)20-9-21-15(11)24-8-12(16(25)22-17(18)19)10-4-2-3-5-13(10)24;/h2-9H,1H3,(H4,18,19,22,25);1H
